US06727264B1
4-{[(1S)-3-CHLORO-1-PHENYLPROPYL]OXY}-(4-PHENOXY)BENZENE:
A mixture of 4-phenoxyphenol (1.86 g, 10.0 mmol), (R)-(−)-3-chloro-phenyl-1-propanol (1.70 g, 10.0 mmol), triphenylphosphine (2.62 g, 10.0 mmol), diethyl azodicarboxylate (1.57 mL, 10.0 mmol) in 5.0 mL of THF was stirred at room temperature for 24 h. The reaction mixture was concentrated in vacuo. The residue was washed with pentane (×3) and the combined pentane extracts were concentrated and chromatographed (silica with hexanes-EtOAc 97:3 as the eluent) to give the desired product as a thick oil which solidified on standing (2.51 g, 75.7%): 1H NMR (400 MHz, CDCl3) δ 7.4-7.23 (m, 7H), 7.03 (apparent t, 1H, J=7.3 Hz), 6.91 (apparent dm, 2H, J=7.8 Hz), 6.93 (apparent q, 4H, J=7.8 Hz), 5.31 (apparent dd, 1H, J=4.5, 8.6 Hz), 3.82 (m, 1H), 3.62 (apparent quintet, 1H, J=5.6 Hz), 2.47 (m, 1H), 2.20 (m, 1H).

reactant | 4-phenoxyphenol | 10.0 mmol, 1.86 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | (R)-(−)-3-chloro-phenyl-1-propanol | 10.0 mmol, 1.70 g | ClC=1C=C(C=CC1)[C@@H](CC)O | C9H11ClO
reactant | triphenylphosphine | 10.0 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.0 mmol, 1.57 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | 4-{[(1S)-3-CHLORO-1-PHENYLPROPYL]OXY}-(4-PHENOXY)BENZENE | ClCC[C@@H](C1=CC=CC=C1)OC1(CC=CC=C1)OC1=CC=CC=C1 | C21H21ClO2
